US05597826
7-(Benzyloxycarbonylamino)-1-(4-methyl-1-piperazinyl)-naphthalene
7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.225 g, 0.933 mmol), benzyl chloroformate (0.147 mL, 1.03 mmol), and potassium carbonate (0.142 g, 1.03 mmol) were combined in a two phase mixture of methylene chloride (10 mL) and water (3 mL) and the mixture was stirred at room temperature overnight. Benzyl chloroformate (0.147 mL, 1.03 mmol) was added and the reaction was stirred 5 hours more. The reaction was diluted with methylene chloride and the phases were separated. The organic layer was washed with brine, dried over calcium sulfate and concentrated to a brown oil which was flash chromatographed on silica gel (1×4 inches). Gradient elution with ethyl acetate/hexane of from 50% to 100% followed by gradient ethanol/ethyl acetate elution of from 5% to 10% gave 0.29 g of a brown foam. This residue was recrystallized from ethyl acetate to give 0.095 g (27%) of the title product in two crops; mp 143°-144° C. Analysis calculated for C23H25N3O2 : C, 73.58; H, 6.71; N, 11.19. Found: C, 73.46; H, 6.71; N, 11.05.

reactant | 7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.933 mmol, 0.225 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | benzyl chloroformate | 1.03 mmol, 0.147 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | potassium carbonate | 1.03 mmol, 0.142 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 mL | O | H2O
reactant | Benzyl chloroformate | 1.03 mmol, 0.147 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-(Benzyloxycarbonylamino)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.29 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C23H25N3O2
